US06548495B2
[2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-5-(2-methoxy-ethoxy)-4-pyrrol-1-yl-phenyl]-carbamic Acid tert.-Butyl Ester
The title compound was prepared from [2-amino-5-(2-methoxy-ethoxy)-4-pyrrol-1-yl-phenyl]-carbamic acid tert.-butyl ester (Example J3) (186 mg, 0.54 mmol) and 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile (Example L1) (153 mg, 0.67 mmol) according to the general procedure M. Obtained as a beige solid (179 mg).

reactant | [2-amino-5-(2-methoxy-ethoxy)-4-pyrrol-1-yl-phenyl]-carbamic acid tert.-butyl ester | 0.54 mmol, 186 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCCOC)N1C=CC=C1)N)=O | C18H25N3O4
reactant | 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile | 0.67 mmol, 153 mg | CC1(OC(C=C(O1)C=1C=C(C#N)C=CC1)=O)C | C13H11NO3
product | [2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-5-(2-methoxy-ethoxy)-4-pyrrol-1-yl-phenyl]-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCCOC)N1C=CC=C1)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C28H30N4O6
